US07696193B2
4-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-fluorobenzoic acid (E272)
4-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-fluorobenzonitrile (E271(150 mg, 0.45 mmol) was dissolved in a mixture of ethanol (1 ml) and water (1.5 ml), treated with sodium hydroxide (150 mg, 4.5 mmol) and heated at reflux for 2 hours. The reaction was then treated with acetic acid (0.39 ml, 6.75 mmol) and concentrated in vacuo. The resulting residue was purified by column chromatography eluting with a mixture of 0.880 ammonia:methanol:dichloromethane (2:18:80) to afford the title compound. MS (ES+) m/e 356 [M+H]+.

reactant | 4-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-fluorobenzonitrile | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=C(C=C(C#N)C=C2)F | C21H21FN2O
reactant | sodium hydroxide | 4.5 mmol, 150 mg | [OH-].[Na+]
reactant | acetic acid | 6.75 mmol, 0.39 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 1.5 ml | O | H2O
product | 4-[(3-Cyclobutyl-2,3,4,5-tetrahydro-1H-3-benzazepin-7-yl)oxy]-3-fluorobenzoic acid | C1(CCC1)N1CCC2=C(CC1)C=CC(=C2)OC2=C(C=C(C(=O)O)C=C2)F | C21H22FNO3
